US05128369
1-(4-Hydroxyphenyl)-2-[2-(isochroman-1-yl)-1-methylethylamino]-1-propanol (Compound 24)
An oily product was obtained in the same manner as in Example 1, using (isochroman-1-yl)acetone and 2-amino-1-(4-hydroxyphenyl)-1-propanol [J. Med. Chem., 14, 148 (1971)]. The product was dissolved in anhydrous methanol, and concentrated hydrochloric acid was added thereto. The solvent was evaporated off to give a hydrochloride. The hydrochloride was then washed with ether to give Compound 24 as crystals in a yield of 72%.

reactant | (isochroman-1-yl)acetone | C1(OCCC2=CC=CC=C12)CC(C)=O | C12H14O2
reactant | 2-amino-1-(4-hydroxyphenyl)-1-propanol | NC(C(O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-(4-Hydroxyphenyl)-2-[2-(isochroman-1-yl)-1-methylethylamino]-1-propanol | yield of 72% | OC1=CC=C(C=C1)C(C(C)NC(CC1OCCC2=CC=CC=C12)C)O | C21H27NO3
